US08168784B2
reacting the 2-chloro-5,5-dimethylcyclohex-1-enecarbaldehyde, 4-chlorophenylboronic acid, a first phase transfer catalyst, a fifth base, and a first palladium catalyst to provide 2-(4-chlorophenyl)-5,5-dimethylcyclohex-1-ene-1-carbaldehyde and isolating or not isolating the 2-(4-chlorophenyl)-5,5-dimethylcyclohex-1-ene-1-carbaldehyde.

reactant | 2-chloro-5,5-dimethylcyclohex-1-enecarbaldehyde | ClC1=C(CC(CC1)(C)C)C=O | C9H13ClO
reactant | 4-chlorophenylboronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
catalyst | palladium | [Pd] | Pd
product | 2-(4-chlorophenyl)-5,5-dimethylcyclohex-1-ene-1-carbaldehyde | ClC1=CC=C(C=C1)C1=C(CC(CC1)(C)C)C=O | C15H17ClO
